* Z:\mnt\design.r\spice\examples\3441.asc
L1 N001 N002 4.7µ
V1 IN 0 3
R1 OUT N003 340K
R2 N003 0 200K
R3 N006 N005 5K
C1 N003 N006 250p
C2 OUT 0 22µ Rser=10m
C3 N004 0 .001µ
R4 IN N004 500K
XU1 N004 0 0 N001 N002 MP_01 0 OUT IN IN N005 N003 LTC3441
C4 N003 OUT 150p
Rload OUT 0 10
.tran 1m startup
.lib LTC3441.sub
.backanno
.end
